* NMOS Transistors
MN1 N3 VIN+ N7 VSS NMOS_Model
? Missing component
M5 N3 VOUT- N8 VSS NMOS_Model
M7 N3 VOUT N9 VSS NMOS_Model
M9 N9 VBIAS3 VDD VSS NMOS_Model
* PMOS Transistors
MP1 N7 VIN+ N2 VDD PMOS_Model
MP2 N7 VIN- N2 VDD PMOS_Model
MB1 N3 VBIAS4 VDD VDD PMOS_Model
MB2 N3 VBIAS5 VDD VDD PMOS_Model
M3 N8 VCMFB VDD VSS PMOS_Model
M4 N8 VOUT+ VDD VSS PMOS_Model
M6 N9 VBIAS2 VDD VSS PMOS_Model
M8 N9 VBIAS1 VDD VSS PMOS_Model
M10 N9 VBIAS3 VDD VSS PMOS_Model
* Voltage Sources
VDD VDD 0 DC 1.8V
VSS VSS 0 DC 0V
* Bias Voltages
VBIAS1 VBIAS1 0 DC VBIAS1_value
VBIAS2 VBIAS2 0 DC VBIAS2_value
VBIAS3 VBIAS3 0 DC VBIAS3_value
VBIAS4 VBIAS4 0 DC VBIAS4_value
VBIAS5 VBIAS5 0 DC VBIAS5_value
VCMFB VCMFB 0 DC VCMFB_value
* Input Voltages
VIN+ VIN+ 0 DC VIN+_value
VIN- VIN- 0 DC VIN-_value
* Notes:
* Ensure NMOS_Model and PMOS_Model are defined in your model library.
* Adjust voltage values as per your design requirements.
